US05093320
1.68 ml (12.0 mmol) of triethylamine are added to a suspension containing 2.58 g (12.0 mmol) of H-Val-OtBu.HCl and 4.62 g (11.0 mmol) of Z-Asp(OtBu)-OSu in 25 ml of dimethylformamide (DMF). The reaction mixture is left to stand overnight, then evaporated under reduced pressure. The residue is mixed with 50 ml of ethyl acetate and the suspension obtained is successively washed with 25 ml of water, 3 times with 25 ml of 1 mol/liter hydrochloric acid each, 3 times with 25 ml of 5% aqueous sodium hydrogenocarbonate each and finally with 25 ml of water, dried over anhydrous sodium sulfate and evaporated under reduced pressure to obtain 4.3 g (81.7%) of oily Z-Asp(OtBu)-Val-OtBu protected dipeptide, Rf1 =0.85.

reactant | triethylamine | 12.0 mmol, 1.68 ml | C(C)N(CC)CC | C6H15N
reactant | H-Val-OtBu.HCl | 12.0 mmol, 2.58 g | N[C@@H](C(C)C)C(=O)OC(C)(C)C.Cl
reactant | Z-Asp(OtBu)-OSu | 11.0 mmol, 4.62 g | N([C@@H](CC(OC(C)(C)C)=O)C(=O)ON1C(=O)CCC1=O)C(=O)OCC1=CC=CC=C1 | C20H24N2O8
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | Z-Asp(OtBu)-Val-OtBu | 4.3 g, 81.7% | N([C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@@H](C(C)C)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1 | C25H38N2O7
